US06307047B1
A solution of (S)-(+)-methyl 3-hydroxy-2-methylpropionate (1.18 g, 10 mmol) in t-butyl acetate (30 mL) was treated with 70% HClO4 (0.1 mL) and the reaction mixture was left at room temperature in a tightly closed flask for 24 hours. The mixture was then poured into a saturated solution of NaHCO3 and extracted with ethyl ether. The ether was removed in vacuo and the residue was dissolved in THF (50 mL). To the resulting solution was added NaBH4 (925 mg, 25 mmol) and at 55° C. dropwise methanol (10 mL). The reaction was continued at 55° C. for 1 hours, then it was cooled to ambient temperature, acidified with 10% citric acid to pH 5 and extracted with ethyl acetate. The acetate extract was washed with water, brine, dried with MgSO4 and concentrated in vacuo. The residue was chromatographed (silica gel, 2:1 hexane-ethyl acetate) to provide (R)-3-t-butoxy-2-methyl-1-propanol (yield: 1 g, 68%). 1H NMR (300 MHz, CDCl3) δ 0.85 (d, J=7 Hz, 3H), 1.20 (s, 9H), 2.03 (m, 1H), 3.30 (t, J=12 Hz, 1H), 3.53 (dd, J=4.5 Hz, 12 Hz, 1H), 3.70 (m, 2H); MS (DCI/NH3) m/z 164 (M+NH4)+.

reactant | (S)-(+)-methyl 3-hydroxy-2-methylpropionate | 10 mmol, 1.18 g | OC[C@@H](C(=O)OC)C | C5H10O3
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
reactant | NaBH4 | 25 mmol, 925 mg | [BH4-].[Na+]
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | t-butyl acetate | 30 mL | C(C)(=O)OC(C)(C)C | C6H12O2
solvent | methanol | 10 mL | CO | CH4O
product | (R)-3-t-butoxy-2-methyl-1-propanol | yield: 1 g, 68% | C(C)(C)(C)OC[C@@H](CO)C | C8H18O2
